* Real inductor subcircuit
.SUBCKT ADL3225V-470MT-TL000 1 2
L1 1 3 47u
Rser 3 2 .9
Rpar 1 2 1000Meg
Cpar 1 2 0.5p
*Rpar 1 2 100k
*Cpar 1 2 33n
.ENDS ADL3225V-470MT-TL000
.SUBCKT cap10nF 1 2
C1 1 3 10n
Rser 3 2 1
Rpar 1 2 100Meg
.ENDS cap10nF
.SUBCKT real_cap 1 2 PARAMS: Value=100n Rser=1 Rpara=100meg
C1 1 3 {Value}
Rser 3 2 {Rser}
Rpar 1 2 {Rpara}
.ENDS real_cap
.SUBCKT real_inductor 1 2 PARAMS: Value=1u Rser=1 Rpara=100meg Cpara=10p
L1 1 3 {Value}
Rser 3 2 {Rser}
Rpar 1 2 {Rpara}
Cpar 1 2 {Cpara}
.ENDS real_inductor
